US04713456
1.27 g (0.034 mole) of sodium borohydride in 10 ml of water are added to 16.4 g (0.1 mole) of tert.-butyl 5-pyrimidinyl ketone in 100 ml of methanol at room temperature. The reaction mixture is stirred at room temperature for 1 hour and concentrated in vacuo, the residue is distilled in methylene chloride and the solution is concentrated again in vacuo. 15.8 g (95% of theory) of 5-(1-hydroxy-2,2-dimethyl-propyl)-pyrimidine of melting point 93°-95° C. are obtained.

reactant | sodium borohydride | 0.034 mole, 1.27 g | [BH4-].[Na+]
reactant | tert.-butyl 5-pyrimidinyl ketone | 0.1 mole, 16.4 g | N1=CN=CC(=C1)C(=O)C(C)(C)C | C9H12N2O
solvent | water | 10 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 5-(1-hydroxy-2,2-dimethyl-propyl)-pyrimidine | 15.8 g, 95% | OC(C(C)(C)C)C=1C=NC=NC1 | C9H14N2O
